US09290451B2
6-Cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid (Example 36 d) and 1-piperidinamine (CAN 2213-43-6) as starting materials, MS (EI): m/e 290.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C | C11H13NO3
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 6-Cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=NC(=C(C=C1)C)OCC1CC1 | C16H23N3O2
